US07674789B2
N-(3-{8-(2,6-difluorophenyl)-2-[(1-methylethyl)oxy]-7-oxo-5,6,7,8-tetrahydropyrimido[4,5-d]pyrimidin-4-yl}-4-methylphenyl)-3-fluoro-4-methylbenzamide
Dry iso-propanol (2 mL) was treated with NaH (0.00612 g, 0.153 mmol, 60% in mineral oil) under argon and stirred for 10 min. The product of Example 23d, N-{3-[8-(2,6-difluorophenyl)-2-(methylsulfonyl)-7-oxo-5,6,7,8tetrahydropyrimido[4,5-d]pyrimidin-4-yl]-4-methylphenyl}-3-fluoro-4-methylbenzamide (0.070 g, 0.120 mmol) was added in iso-propanol (2 mL). The reaction was stirred under argon for 1 hour and then warmed to 80° C. for 3 hours. The reaction mixture was diluted with EtOAc and the organics washed with water, brine (twice), dried over Na2SO4, filtered and evaporated. The crude residue was purified by flash chromatography on silica gel, eluting with a CH2Cl2 −10% EtOAc/CH2Cl2 gradient to afford the title compound as a white solid. mp 253.5-255.4° C.; LC-MS m/z 562 (M+H)+, 2.44 min (ret. time).

reactant | NaH | 0.153 mmol, 0.00612 g | [H-].[Na+]
reactant | N-{3-[8-(2,6-difluorophenyl)-2-(methylsulfonyl)-7-oxo-5,6,7,8tetrahydropyrimido[4,5-d]pyrimidin-4-yl]-4-methylphenyl}-3-fluoro-4-methylbenzamide | 0.120 mmol, 0.070 g | FC1=C(C(=CC=C1)F)N1C(NCC2=C1N=C(N=C2C=2C=C(C=CC2C)NC(C2=CC(=C(C=C2)C)F)=O)S(=O)(=O)C)=O | C28H22F3N5O4S
reactant | iso-propanol | 2 mL | C(C)(C)O | C3H8O
reactant | iso-propanol | 2 mL | C(C)(C)O | C3H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | N-(3-{8-(2,6-difluorophenyl)-2-[(1-methylethyl)oxy]-7-oxo-5,6,7,8-tetrahydropyrimido[4,5-d]pyrimidin-4-yl}-4-methylphenyl)-3-fluoro-4-methylbenzamide | FC1=C(C(=CC=C1)F)N1C(NCC2=C1N=C(N=C2C=2C=C(C=CC2C)NC(C2=CC(=C(C=C2)C)F)=O)OC(C)C)=O | C30H26F3N5O3
